US04025640
1.0 g of ethyl 4-(hydroxymethyl)-1,2,5-trimethylpyrrole-3-carboxylate is dissolved in 15 ml of benzene and 0.6 g of thionyl chloride is added dropwise and after total addition the reaction mixture is stirred for 3.5 hours at ambient temperature. The benzene is removed in vacuo leaving the gray solid, ethyl 4-(chloromethyl)-1,2,5-trimethylpyrrole-3-carboxylate.

reactant | ethyl 4-(hydroxymethyl)-1,2,5-trimethylpyrrole-3-carboxylate | 1.0 g | OCC=1C(=C(N(C1C)C)C)C(=O)OCC | C11H17NO3
reactant | thionyl chloride | 0.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | ethyl 4-(chloromethyl)-1,2,5-trimethylpyrrole-3-carboxylate | ClCC=1C(=C(N(C1C)C)C)C(=O)OCC | C11H16ClNO2
